US06232310B1
c) N-(2-Cyanomethylsulfonyl-4-fluoro-phenyl)acetamide
N-(2-Cyanomethylsulfanyl-4-fluoro-phenyl)acetamide (0.43 g) was suspended in glacial acetic acid (2 ml). Hydrogen peroxide (35%, 1 ml) was added and the mixture was stirred at 100° C. for 1 h. Then the mixture was cooled to 0° C. and water (15 ml) was added. After stirring for 10 min a white precipitate was isolated by filtration, washed with water and dried. Recrystallization from 96% ethanol afforded the title compound as white needles, mp 154-157° C.; yield 0.28 g (58%); 1H-NMR (DMSO-d6), δ (ppm): 9.64 (s, 1H, NH), 7.99-7.64 (m, 3H, Ar—H), 5.30 (s, 2H, CH2), 2.08 (s, 3H, CH3).

reactant | N-(2-Cyanomethylsulfanyl-4-fluoro-phenyl)acetamide | 0.43 g | C(#N)CSC1=C(C=CC(=C1)F)NC(C)=O | C10H9FN2OS
reactant | Hydrogen peroxide | 1 ml | OO | H2O2
reactant | water | 15 ml | O | H2O
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | N-(2-Cyanomethylsulfonyl-4-fluoro-phenyl)acetamide | C(#N)CS(=O)(=O)C1=C(C=CC(=C1)F)NC(C)=O | C10H9FN2O3S
